US06479495B1
4-[[4-Benzyloxy-3-(ethoxycarbonylmethoxy)phenyl]methyl]-1-(pyridin-2-yl)piperazine Dihydrochloride
To a solution of 4-benzyloxy-3-(ethoxycarbonylmethoxy)benzaldehyde (0.2 g) in dichloroethane (4 ml) was added (pyridin-2-yl)piperazine (0.12 ml) and sodiumtriacetoxy borohydride (0.25 g), with stirring. The reaction mixture was stirred at ambient temperature for 1.5 hrs, poured into ice/saturated sodium bicarbonate solution and extracted with ethyl acetate. The extracts were washed with water, saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and the filtrate was concentrated. The residue was dissolved in dichloromethane and flash chromatographed (silica gel), eluting with dichloromethane, 1% and 2% methanol/dichloromethane. The appropriate fractions were collected and concentrated. The residue was dissolved in ether and ethereal hydrochloric acid was added. The suspension was filtered and the filter cake dried for 2 hrs at ambient temperature. Recrystallization from ethanol provided 0.143 g (42.1%) of product, mp 151-191° C.

reactant | 4-benzyloxy-3-(ethoxycarbonylmethoxy)benzaldehyde | 0.2 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OCC(=O)OCC | C18H18O5
reactant | (pyridin-2-yl)piperazine | 0.12 ml | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | sodiumtriacetoxy borohydride | 0.25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 4 ml | ClC(C)Cl | C2H4Cl2
product | 4-[[4-Benzyloxy-3-(ethoxycarbonylmethoxy)phenyl]methyl]-1-(pyridin-2-yl)piperazine Dihydrochloride | 0.143 g, 42.1% | Cl.Cl.C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CN1CCN(CC1)C1=NC=CC=C1)OCC(=O)OCC | InChI=1S/C27H31N3O4.2ClH/c1-2-32-27(31)21-34-25-18-23(11-12-24(25)33-20-22-8-4-3-5-9-22)19-29-14-16-30(17-15-29)26-10-6-7-13-28-26;;/h3-13,18H,2,14-17,19-21H2,1H3;2*1H
